US08859574B2
To a mixture of 4-bromo-5-chloro-2-methylaniline (500 mg, 2.27 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (840 mg, 3.73 mmol) and sodium carbonate (2.52 g, 15.9 mmol) in DMF/H2O (20/5 mL) was added tetrakis(triphenylphosphine) palladium (0) (131 mg, 5 mol %). The reaction tube was sealed, the mixture was purged with N2 for 3 min and then heated at 100° C. under N2 for overnight. The reaction was cooled to room temperature and poured into saturated aqueous ammonia chloride solution. The crude reaction mixture was extracted with ethyl acetate (3×15 mL). The organic extracts were combined, washed with brine and concentrated. The crude product was purified with silica chromatography (80% ethyl acetate in hexanes) to afford tert-butyl 4-(4-amino-2-chloro-5-methylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate as a yellow solid. This obtained product (322 mg, 1 mmol) was dissolved in dioxane/NMP (anhydrous, 4 mL, 3/1). To this solution was added tributyl(vinyl)stannane (380 mg, 1.2 mmol), cesium fluoride (304 mg, 2 mmol) and palladium bis(tri-tert-butyl-phosphine) (51 mg, 10 mol %). This mixture was purged with N2 for 3 minutes and then heated in a sealed tube at 120° C. for overnight. The mixture was cooled to room temperature and diluted with ethyl acetate. The resulting mixture was sequentially washed with saturated aqueous ammonium chloride and brine, and finally dried over sodium sulfate. After concentration, the crude product was purified via silica chromatography (10% ethyl acetate in hexanes) to afford tert-butyl 4-(4-amino-5-methyl-2-vinylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate as a light yellow oil;

reactant | 4-bromo-5-chloro-2-methylaniline | 2.27 mmol, 500 mg | BrC1=CC(=C(N)C=C1Cl)C | C7H7BrClN
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 3.73 mmol, 840 mg | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | 15.9 mmol, 2.52 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF H2O | 5 mL | CN(C)C=O.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 131 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 4-(4-amino-2-chloro-5-methylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | NC1=CC(=C(C=C1C)C1=CCN(CC1)C(=O)OC(C)(C)C)Cl | C17H23ClN2O2
